US08633237B2
e) (R)-N-methyl-3-(2-(1-methylethylsulfonamido)-2,3-dihydro-1H-inden-5-yloxy)benzene sulfonamide
To a mixture of the 3-(N-methylsulfamoyl)phenylboronic acid (0.274 mmol, 59 mg), copper (II)acetate (0.137 mmol, 25 mg), triethylamine (0.685 mmol, 96 μL) and 4 Å molecular sieves (100 mg) in DCM (1 mL) was added (R)-N-(5-hydroxy-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide (0.137 mmol, 35 mg) and the resultant mixture stirred at room temperature overnight. The reaction mixture was diluted with DCM (1 mL) before water (0.5 mL) was added and the organic layers separated using hydrophobic frits. The aqueous was extracted with further DCM (1 mL), and the combined organics concentrated using to dryness. The residue was taken up in DMSO and purified by preparative HPLC to give the title compound as a clear film (5.9 mg, 10.1%). MS (ESI): m/z [M−H]− 423.2

reactant | 3-(N-methylsulfamoyl)phenylboronic acid | 0.274 mmol, 59 mg | CNS(=O)(=O)C=1C=C(C=CC1)B(O)O | C7H10BNO4S
reactant | triethylamine | 0.685 mmol, 96 μL | C(C)N(CC)CC | C6H15N
reactant | (R)-N-(5-hydroxy-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide | 0.137 mmol, 35 mg | OC=1C=C2C[C@@H](CC2=CC1)NS(=O)(=O)C(C)C | C12H17NO3S
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | water | 0.5 mL | O | H2O
catalyst | copper (II)acetate | 0.137 mmol, 25 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | (R)-N-methyl-3-(2-(1-methylethylsulfonamido)-2,3-dihydro-1H-inden-5-yloxy)benzene sulfonamide | CNS(=O)(=O)C1=CC(=CC=C1)OC=1C=C2C[C@@H](CC2=CC1)NS(=O)(=O)C(C)C | C19H24N2O5S2
